* C:\users\crossover\Desktop\My Mac Desktop\SCHOOL WORK\Imperial College London\EEE\Year 1\Project\electronicsdesignproject\Draft1.asc
R1 N002 N001 34k
R2 N002 N001 150
R3 N003 N002 2.4k
L1 N003 0 100m
C1 N003 0 150µ
L2 0 N001 1m
C2 N002 0 1n
.backanno
.end
